US04210586
A mixture of 105.0 g. (0.5 mole) of 2-nitro-4-acetamidoanisole, 67.0 g. (0.5 mole) of ethyl acetoacetate, 550 ml. of isopropyl alcohol, 10.0 g. of 5% Pt/C, and 3.0 g. of p-toluenesulfonic acid is treated in an autoclave at 165° C. and 1,000 psi of hydrogen until the uptake of hydrogen ceases. The solvent and catalysts are removed. Upon standing, 143.8 g. (98%) of ethyl 3-(2'-methoxy-5-acetamidoanilino)butyrate is obtained. NMR analysis of the product supports the proposed structure.

reactant | 2-nitro-4-acetamidoanisole | 0.5 mole | [N+](=O)([O-])C1=C(C=CC(=C1)NC(C)=O)OC | C9H10N2O4
reactant | ethyl acetoacetate | 0.5 mole | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | hydrogen | [H][H] | H2
catalyst | Pt/C | [Pt] | Pt
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | ethyl 3-(2'-methoxy-5-acetamidoanilino)butyrate | 98% | COC1=C(NC(CC(=O)OCC)C)C=C(C=C1)NC(C)=O | C15H22N2O4
